US07094900B2
N-({(5S)-3-[3,5-difluoro-4-(2-oxopiperidin-4-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide is prepared as in the route described in Example 16 substituting N-{[(5S)-3-(3,5-difluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide for 1 N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide. 1H-NMR (CDCl3) δ: 7.13, 6.09, 5.8, 4.79, 4.01, 3.74, 3.68, 3.44, 2.75, 2.62, 2.31, 2.02, 1.94

reactant | N-{[(5S)-3-(3,5-difluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | FC=1C=C(C=C(C1I)F)N1C(O[C@H](C1)CNC(C)=O)=O | C12H11F2IN2O3
reactant | N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CNC(C)=O)=O | C12H12FIN2O3
product | N-({(5S)-3-[3,5-difluoro-4-(2-oxopiperidin-4-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | FC=1C=C(C=C(C1C1CC(NCC1)=O)F)N1C(O[C@H](C1)CNC(C)=O)=O | C17H19F2N3O4
